US05620972
To a solution of 3-t-butyloxycarbonylamino-3,4-dihydro-1H-1-benzazepine-2,5-dione (500 mg, 1.72 mmol) in 25 ml anhydrous DMF was-added cesium carbonate (562 mg) followed by iodomethane (215 μl). The reaction was stirred for one hour, diluted with ethyl acetate and then washed with water. The organic phase was separated, washed with brine, dried (MgSO4) and concentrated to give a yellow solid. Tritiation with diethyl ether gave 3-t-butyloxycarbonylamino-1-methyl-3,4-dihydro-1H-1-benzazepine-2,5-dione as a colourless solid. 1H NMR (250 MHz, CDH3) δ 7.64-7.50 (M, 2H) 7.38-7.24 (t, 1H) 7.20-7.60 (d, 1H,) 5.78-5.66 (br d, 1H,) 4.98-4.82 (M, 1H) 3.40 (s, 3H) 3.36-3.20 (dd, 2H) 2.98-2.80 (dd, 2H).

reactant | 3-t-butyloxycarbonylamino-3,4-dihydro-1H-1-benzazepine-2,5-dione | 1.72 mmol, 500 mg | C(C)(C)(C)OC(=O)NC1C(NC2=C(C(C1)=O)C=CC=C2)=O | C15H18N2O4
reactant | cesium carbonate | 562 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 215 μl | IC | CH3I
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-t-butyloxycarbonylamino-1-methyl-3,4-dihydro-1H-1-benzazepine-2,5-dione | C(C)(C)(C)OC(=O)NC1C(N(C2=C(C(C1)=O)C=CC=C2)C)=O | C16H20N2O4
